US06713471B1
To a solution of 9-methyl-2,3,4,5-tetrahydro-1,5-benzothiazepine (500 mg, 2.6 mmol) and AcOH (2 mL) cooled to ˜9° C. was added a solution of NaNO2 (212 mg, 3.1 mmol) and water (1 mL) dropwise over 4 min (internal temperature <12° C.). The cooling bath was removed and the reaction was maintained at 23° C. for 2 h. It was diluted with H2O (50 mL). 9-methyl-5-nitroso-2,3,4,5-tetrahydro-1,5-benzothiazepine was obtained (470 mg, 87%) as a yellow solid after it was collected by vacuum filtration and air-dried at 23° C.

reactant | 9-methyl-2,3,4,5-tetrahydro-1,5-benzothiazepine | 2.6 mmol, 500 mg | CC1=CC=CC=2NCCCSC21 | C10H13NS
reactant | AcOH | 2 mL | CC(=O)O | C2H4O2
reactant | NaNO2 | 3.1 mmol, 212 mg | N(=O)[O-].[Na+]
solvent | water | 1 mL | O | H2O
product | 9-methyl-5-nitroso-2,3,4,5-tetrahydro-1,5-benzothiazepine | CC1=CC=CC=2N(CCCSC21)N=O | C10H12N2OS
